US07897597B2
7-Benzyloxy-4-chloro-3-nitroquinoline (14.5 g, 46.0 mmol) was treated using the general method described in Part E of Example 1. 1,2-Diamino-2-methylpropane (5.29 mL, 50.6 mmol) was used in lieu of isobutylamine. After the work-up, the crude product was passed through a layer of silica gel (eluting sequentially with chloroform and 96:4-chloroform:methanol) to provide 12.4 g of (2-amino-2-methylpropyl)-(7-benzyloxy-3-nitroquinolin-4-yl)amine as a yellow solid.

reactant | 7-Benzyloxy-4-chloro-3-nitroquinoline | 46.0 mmol, 14.5 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C16H11ClN2O3
reactant | 1,2-Diamino-2-methylpropane | 50.6 mmol, 5.29 mL | NCC(C)(C)N | C4H12N2
reactant | isobutylamine | C(C(C)C)N | C4H11N
product | (2-amino-2-methylpropyl)-(7-benzyloxy-3-nitroquinolin-4-yl)amine | 12.4 g | NC(CNC1=C(C=NC2=CC(=CC=C12)OCC1=CC=CC=C1)[N+](=O)[O-])(C)C | C20H22N4O3
